US07078428B2
N-[(2-Isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 5 g of potassium tert-butoxide, 5.2 g of guanidinium chloride and 2.5 g of ethyl (2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 24 hours and is then filtered. The filtrate is taken up in 150 cm3 of water and 200 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is separated out and the aqueous phase is extracted with twice 200 cm3 of ethyl acetate. The organic extracts are combined, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 45° C. The evaporation residue is taken up in diethyl ether and the precipitate formed is filtered and then washed several times with diethyl ether. The solid is dried under reduced pressure (10 Pa) at a temperature in the region of 45° C. 1.5 g of N-[(2isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine are thus obtained in the form of a white solid melting at 250° C. Mass spectrum EI: m/e 288 (M+), m/e 201 (base peak).

reactant | potassium tert-butoxide | 5 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 5.2 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol1-yl)acetate | 2.5 g | C(C(C)C)N1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C16H21NO3
product | N-[(2isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 1.5 g | C(C(C)C)N1C(C2=CC=CC=C2C1=O)CC(=O)NC(=N)N | C15H20N4O2
